US04387238
Following the procedure of Example 1, monoethyl potassium epoxysuccinate (1.0 g) was successively treated with oxalyl chloride (0.75 g) and furfurylamine (0.98 g) to give 0.57 g of ethyl N-furfuryl-2,3-epoxysuccinamate (Compound No. 14) as colorless needles melting at 72°-73° C.

reactant | monoethyl potassium epoxysuccinate | 1.0 g | O1C(C(=O)O)C1C(=O)O.C(C)[K]
reactant | oxalyl chloride | 0.75 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | furfurylamine | 0.98 g | C(C1=CC=CO1)N | C5H7NO
product | ethyl N-furfuryl-2,3-epoxysuccinamate | 0.57 g | C(C1=CC=CO1)NC(C1C(C(=O)OCC)O1)=O | C11H13NO5
